US07176242B2
3-[(Butylamino)methyl]-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-methylbenzamide dihydrochloride
To a stirred solution of 3-{[(tert-butoxycarbonyl)(butyl)amino]methyl}-5-methylbenzoic acid (90 mg, 0.28 mmol) in methylene chloride (3 mL) is added HBTU (160 mg, 0.42 mmol), HOBt (57 mg, 0.42 mmol), and N,N-diisopropylethylamine (0.142 mL, 0.84 mmol), followed by (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol prepared by the method of EXAMPLE SP-272 (114 mg, 0.28 mmol), and the reaction mixture is stirred for 12 h at room temperature. The reaction mixture is diluted with methylene chloride, washed with water, and saturated sodium bicarbonate, dried (magnesium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, 10% methanol/chloroform) affords a clear oil, which is dissolved in methanol (2 mL). To this solution is added hydrochloric acid (5 mL, 4 N dioxane, 20 mmol), and the reaction mixture is stirred for 1 h at room temperature. The reaction mixture is then diluted with ethyl ether (10 mL). The precipitate that is formed is collected by filtration to provide the title compound. ESI MS m/z 538.5 [M+H]+.

reactant | 3-{[(tert-butoxycarbonyl)(butyl)amino]methyl}-5-methylbenzoic acid | 0.28 mmol, 90 mg | C(C)(C)(C)OC(=O)N(CCCC)CC=1C=C(C(=O)O)C=C(C1)C | C18H27NO4
reactant | HBTU | 0.42 mmol, 160 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.42 mmol, 57 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.84 mmol, 0.142 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
reactant | hydrochloric acid | 20 mmol, 4 N, 5 mL | Cl | ClH
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl ether | 10 mL | C(C)OCC | C4H10O
product | 3-[(Butylamino)methyl]-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-5-methylbenzamide dihydrochloride | Cl.Cl.C(CCC)NCC=1C=C(C(=O)N[C@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)CC2=CC(=CC(=C2)F)F)C=C(C1)C | InChI=1S/C32H41F2N3O2.2ClH/c1-4-6-10-35-20-26-11-22(3)12-27(14-26)32(39)37-30(17-25-15-28(33)18-29(34)16-25)31(38)21-36-19-24-9-7-8-23(5-2)13-24;;/h7-9,11-16,18,30-31,35-36,38H,4-6,10,17,19-21H2,1-3H3,(H,37,39);2*1H/t30-,31+;;/m0../s1
